US08420670B2
(4-Fluorobenzyl)-(2-methylquinoline-4-yl)-amine
Preparation was made using a similar procedure as described in example 1, method 1.3. Starting materials were 4-chloro-2-methylquinoline and 4-fluorobenzylamine.

reactant | 4-chloro-2-methylquinoline | ClC1=CC(=NC2=CC=CC=C12)C | C10H8ClN
reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
product | (4-Fluorobenzyl)-(2-methylquinoline-4-yl)-amine | FC1=CC=C(CNC2=CC(=NC3=CC=CC=C23)C)C=C1 | C17H15FN2
